US08252797B2
To a solution of 5-(4-Fluoro-benzyl)-4,5-dihydro-isoxazole-3-carboxylic acid ethyl ester (0.17 g, 0.677 mmol) in THF (10 ml), NaBH4 (0.051 g, 0.81 mmol) was added slowly at 0° C. The reaction mixture was stirred for 2 h at room temperature. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over Na2SO4 and concentrated under vacuum. The residue obtained was purified by column chromatography to obtain [5-(4-Fluoro-benzyl)-4,5-dihydro-isoxazol-3-yl]-methanol (140 mg, 100%) as an yellow oil.

reactant | 5-(4-Fluoro-benzyl)-4,5-dihydro-isoxazole-3-carboxylic acid ethyl ester | 0.677 mmol, 0.17 g | C(C)OC(=O)C1=NOC(C1)CC1=CC=C(C=C1)F | C13H14FNO3
reactant | NaBH4 | 0.81 mmol, 0.051 g | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | [5-(4-Fluoro-benzyl)-4,5-dihydro-isoxazol-3-yl]-methanol | 140 mg, 100% | FC1=CC=C(CC2CC(=NO2)CO)C=C1 | C11H12FNO2
